US07705042B2
c) 4-Methyl-3′-nitro-6′-piperazin-1-yl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl dihydrobromide
A solution of 4-(4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazine-1-carboxylic acid benzyl ester (as prepared in the previous step, 3.2 g, 7.3 mmol) in HOAc (50 mL) was treated with 30% HBr in HOAc (7.3 mL, 1 mL/mmol benzyl ester) and heated to 60° C. for 1 h. The reaction was cooled to room temperature and allowed to stir for 5 h, after which time Et2O was added to the reaction while stirring. The bright yellow precipitate was filtered and washed with Et2O to afford the title compound (2.6 g, 77%). 1H-NMR (CD3OD; 400 MHz): δ 8.44 (d, 1H, J=9.6 Hz), 6.95 (d, 1H, J=9.6 Hz), 4.13 (app t, 4H, J=5.2 Hz), 3.87-3.79 (m, 2H), 3.71-3.60 (m, 2H), 3.42 (app t, 4H, J=5.2 Hz), 2.09-2.00 (m, 2H), 1.99-1.88 (m, 1H), 1.69-1.55 (m, 2H), 1.09 (d, 3H, J=6.8 Hz). LC-MS (ESI, m/z): Calcd. for C15H23N5O2, 306.2 (M+H), found 306.1.

reactant | 4-(4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C(=N1)N1CCC(CC1)C)[N+](=O)[O-] | C23H29N5O4
reactant | HBr | Br | BrH
reactant | Et2O | CCOCC | C4H10O
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
solvent | HOAc | 7.3 mL | CC(=O)O | C2H4O2
product | 4-Methyl-3′-nitro-6′-piperazin-1-yl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl dihydrobromide | 2.6 g, 77% | Br.Br.CC1CCN(CC1)C1=NC(=CC=C1[N+](=O)[O-])N1CCNCC1 | InChI=1S/C15H23N5O2.2BrH/c1-12-4-8-19(9-5-12)15-13(20(21)22)2-3-14(17-15)18-10-6-16-7-11-18;;/h2-3,12,16H,4-11H2,1H3;2*1H
